US04820866
1,2-bis-(4-nitrophenoxy)-propane
76 g (1 mol) 1,2-dihydroxypropane, 346.5 g (2.2 mols) nitrochlorobenzene and 140 g powdered sodium hydroxide were reacted following the procedure described in Example 1 in 600 ml DMSO.

reactant | 1,2-dihydroxypropane | 1 mol, 76 g | OCC(C)O | C3H8O2
reactant | nitrochlorobenzene | 2.2 mols, 346.5 g | [N+](=O)([O-])C1=C(C=CC=C1)Cl | C6H4ClNO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMSO | 600 ml | CS(=O)C | C2H6OS
product | 1,2-bis-(4-nitrophenoxy)-propane | [N+](=O)([O-])C1=CC=C(OCC(C)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C15H14N2O6
